US07635684B2
4-{[4-(2-{3-[1-Carbamoyl-1-(methyl)ethyl]ureido}ethoxy)-2-methylphenyl]methyl}-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 19 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-aminoethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 2-amino-2-methylpropionamide instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole and 4-(2-aminoethyl)morpholine, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-aminoethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCN)C)C(C)C | C30H41N3O11
reactant | 2-amino-2-methylpropionamide | NC(C(=O)N)(C)C | C4H10N2O
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 4-{[4-(2-{3-[1-Carbamoyl-1-(methyl)ethyl]ureido}ethoxy)-2-methylphenyl]methyl}-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | C(N)(=O)C(C)(C)NC(NCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C)=O | C27H41N5O9
